US09029545B2
4-Amino-2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylic acid
A mixture of ethyl 4-amino-2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate (700 mg, 1.661 mmol) (Description 15) in DMSO (7 mL) and aqueous NaOH (2M) (4.15 mL, 8.31 mmol) was heated at 150° C. for 1 h. The mixture was cooled to RT, diluted with water (20 mL) and acidified with formic acid to pH 6. The mixture was then extracted with ethyl acetate (5×30 mL) and the combined organics washed with brine (2×30 mL), dried and concentrated, to give the title compound (513 mg). LCMS (A) m/z: 393/395 [M+1]+, Rt 1.04 min (acidic).

reactant | ethyl 4-amino-2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate | 1.661 mmol, 700 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C2=CC(=CC=C2)OC)Br | C18H17BrN2O3S
reactant | NaOH | 8.31 mmol, 2M, 4.15 mL | [OH-].[Na+]
reactant | formic acid | C(=O)O | CH2O2
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
product | 4-Amino-2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylic acid | 513 mg | NC1=C2C(=NC(=C1C(=O)O)C)SC(=C2C2=CC(=CC=C2)OC)Br | C16H13BrN2O3S
